### PR TITLE
[Merged by Bors] - chore: cleanup/annotate some `erw` in Lie theory

### PR DESCRIPTION
**Pull request by kim-em**

### CODE REVIEW

File: Mathlib/Algebra/Lie/Submodule.lean [hunk 1]
```diff
@@ -751,7 +753,7 @@ theorem lieSpan_mono {t : Set M} (h : s ⊆ t) : lieSpan R L s ≤ lieSpan R L t
   rw [lieSpan_le]
   exact Subset.trans h subset_lieSpan
 
-theorem lieSpan_eq : lieSpan R L (N : Set M) = N :=
+theorem lieSpan_eq (N : LieSubmodule R L M) : lieSpan R L (N : Set M) = N :=
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Lie/Submodule.lean:756]: What's this about?

File: Mathlib/Algebra/Lie/Submodule.lean [hunk 2]
```diff
@@ -729,11 +729,13 @@ def lieSpan : LieSubmodule R L M :=
 variable {R L s}
 
 theorem mem_lieSpan {x : M} : x ∈ lieSpan R L s ↔ ∀ N : LieSubmodule R L M, s ⊆ N → x ∈ N := by
-  change x ∈ (lieSpan R L s : Set M) ↔ _; erw [sInf_coe]; exact mem_iInter₂
+  change x ∈ (lieSpan R L s : Set M) ↔ _
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Lie/Submodule.lean:732]: Feel free to tackle this `change` as well

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer delegate

Thanks!

**Comment by riccardobrasca** [comment]
Thanks!

bors d+

File: Mathlib/Algebra/Lie/IdealOperations.lean [hunk 3]
```diff
@@ -185,8 +189,12 @@ theorem sup_lie : ⁅I ⊔ J, N⁆ = ⁅I, N⁆ ⊔ ⁅J, N⁆ := by
     rw [sup_le_iff]; constructor <;>
     apply mono_lie_left <;> [exact le_sup_left; exact le_sup_right]
   suffices ⁅I ⊔ J, N⁆ ≤ ⁅I, N⁆ ⊔ ⁅J, N⁆ by exact le_antisymm this h
-  rw [lieIdeal_oper_eq_span, lieSpan_le]; rintro m ⟨⟨x, hx⟩, n, h⟩; erw [LieSubmodule.mem_sup]
-  rw [LieSubmodule.mem_sup] at hx; rcases hx with ⟨x₁, hx₁, x₂, hx₂, hx'⟩
+  rw [lieIdeal_oper_eq_span, lieSpan_le]
+  rintro m ⟨⟨x, hx⟩, n, h⟩
+  simp only [SetLike.mem_coe]
+  rw [LieSubmodule.mem_sup]
+  rw [LieSubmodule.mem_sup] at hx
```
Comment (grunweg) [inline Mathlib/Algebra/Lie/IdealOperations.lean:196]: Does this work?
```suggestion
  rw [LieSubmodule.mem_sup] at ⊢ hx

File: Mathlib/Algebra/Lie/IdealOperations.lean [hunk 4]
```diff
@@ -173,8 +173,12 @@ theorem lie_sup : ⁅I, N ⊔ N'⁆ = ⁅I, N⁆ ⊔ ⁅I, N'⁆ := by
     rw [sup_le_iff]; constructor <;>
     apply mono_lie_right <;> [exact le_sup_left; exact le_sup_right]
   suffices ⁅I, N ⊔ N'⁆ ≤ ⁅I, N⁆ ⊔ ⁅I, N'⁆ by exact le_antisymm this h
-  rw [lieIdeal_oper_eq_span, lieSpan_le]; rintro m ⟨x, ⟨n, hn⟩, h⟩; erw [LieSubmodule.mem_sup]
-  rw [LieSubmodule.mem_sup] at hn; rcases hn with ⟨n₁, hn₁, n₂, hn₂, hn'⟩
+  rw [lieIdeal_oper_eq_span, lieSpan_le]
+  rintro m ⟨x, ⟨n, hn⟩, h⟩
+  simp only [SetLike.mem_coe]
+  rw [LieSubmodule.mem_sup]
+  rw [LieSubmodule.mem_sup] at hn
```
Comment (grunweg) [inline Mathlib/Algebra/Lie/IdealOperations.lean:180]: Does this work?
```suggestion
  rw [LieSubmodule.mem_sup] at ⊢ hn

**Comment by ocfnash** [comment]
Thanks for working on this. I don't have anything to add except that this is all quite old code when I (and to some extent we all) were still learning. I do eventually want to tidy this stuff up.

File: Mathlib/Algebra/Lie/Submodule.lean (hunk 1 above)
Comment (kim-em) [reply Mathlib/Algebra/Lie/Submodule.lean:756]: Makes the statement much more readable, at least to me!

File: Mathlib/Algebra/Lie/Submodule.lean (hunk 2 above)
Comment (kim-em) [reply Mathlib/Algebra/Lie/Submodule.lean:732]: I'll leave this for someone else. :-)

File: Mathlib/Algebra/Lie/IdealOperations.lean (hunk 4 above)
Comment (kim-em) [reply Mathlib/Algebra/Lie/IdealOperations.lean]: Almost: ` at hx ⊢`

**Comment by kim-em** [comment]
bors merge
